US07435823B2
Preparation of N-(2-dimethylaminoethyl)-3-nitrobenzamide
3-Nitrobenzoyl chloride (2 g, 10.77 mmol) was loaded into a round bottomed flask, placed under a N2 atmosphere and dissolved in anhydrous DCM (10 mL). The mixture was cooled to 0° C. and N,N-dimethylethylenediamine (0.98 mL, 8.98 mmol) was added to the reaction. The reaction was allowed to warm to RT and left to stir for 18 h. After 18 h the reaction had given a precipitate which was isolated by filtration and washed with DCM to give 2.28 g of a white solid, which was partitioned between DCM and a saturated aqueous NaHCO3 solution. The organic layer was removed under reduced pressure and the aqueous layer was then re-extracted DCM. The organic layers were combined, dried over Na2SO4 and the solvent was removed under reduced pressure to afford the title compound as a yellow solid.

reactant | 3-Nitrobenzoyl chloride | 10.77 mmol, 2 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | N,N-dimethylethylenediamine | 8.98 mmol, 0.98 mL | CN(CCN)C | C4H12N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2-dimethylaminoethyl)-3-nitrobenzamide | 2.28 g | CN(CCNC(C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C11H15N3O3
